US04259519
A suspension of 1.62 grams (5.00 mmoles) of dibenzyl-trans-hex-3-ene-1,6-dioate in 25 ml of 10% sodium hydroxide solution is heated to reflux for 12 hours. At the end of this time the reaction mixture is cooled and extracted twice, each with 15 ml of chloroform. The aqueous phase is acidified with dilute hydrochloric acid and extracted three times with 50 ml portions of ether. The ether extracts are combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Recrystallization of the yellowish residual oil from aqueous methanol yields 0.25 gram of trans-hex-3-ene-1,6-dioic acid, m.p.=197°-198° C. (Lit. m.p.=199°). The melting point of a mixture of the reaction product and an authentic sample obtained from Aldrich Chemical Co. remains unchanged.

reactant | dibenzyl-trans-hex-3-ene-1,6-dioate | 5.00 mmoles, 1.62 grams | C(C1=CC=CC=C1)OC(C\C=C\CC(=O)OCC1=CC=CC=C1)=O | C20H20O4
solvent | sodium hydroxide | 25 ml | [OH-].[Na+]
product | trans-hex-3-ene-1,6-dioic acid | 0.25 gram | C(C\C=C\CC(=O)O)(=O)O | C6H8O4
